US06348474B1
Methyl 3-(4-(N-benzoyl-N-methylamino)-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate
To a solution of methyl 3-(4-(N-benzoylamino)-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (300 mg) in N,N-dimethylformamide (3 ml) was added 60% sodium hydride (in mineral oil, 30.4 mg) at room temperature. After 15 min, methyl iodide (108 mg) was added and the mixture was stirred at room temperature for 2 hr. Ice water was poured thereinto and the mixture was extracted with ethyl acetate. The organic layer was successively washed with a saturated aqueous solution of sodium hydrogencarbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the objective compound (305 mg) as a pale-yellow powder.

reactant | methyl 3-(4-(N-benzoylamino)-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 300 mg | C(C1=CC=CC=C1)(=O)NC1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=C1)Cl | C23H19ClN4O3
reactant | sodium hydride | 30.4 mg | [H-].[Na+]
reactant | methyl iodide | 108 mg | CI | CH3I
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | Methyl 3-(4-(N-benzoyl-N-methylamino)-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 305 mg | C(C1=CC=CC=C1)(=O)N(C)C1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=C1)Cl | C24H21ClN4O3
